US07691836B2
(11β,16α,17β)-11-(4-Bromophenyl)-17-cyclopropylcarbonyl-16-methylestra-4,9-dien-3-one (10 g, 20.3 mmol), 3-pyridinylboronic acid (3.7 g, 30.4 mmol), potassium phosphate (5.2 g, 24.3 mmol), bis(triphenylphosphine)palladium(II) chloride (442 mg, 0.61 mmol) and triphenylarsine (426 mg, 1.4 mmol) were dissolved in a mixture of dioxane (240 mL) and water (30 mL) under a nitrogen atmosphere. The reaction mixture was stirred for 2 hours at 100° C. and then cooled to room temperature. Water was added and the mixture was extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4) and evaporated to dryness. Purification by column chromatography (SiO2, heptane/ethyl acetate, gradient 2/1 to 1/2) gave crude product (8.3 g, 16.9 mmol) which was crystallized from acetonitrile/water to give (11β,16α,17β)-17-cyclopropylcarbon-yl-16-methyl-11-[4-(3-pyridinyl)phenyl]estra-4,9-dien-3-one (5.5 g, 11.2 mmol, 55% yield), mp. 206° C. 1H NMR (400 MHz, CDCl3): δ 0.35 (s, 3H), 0.86-2.86 (m, 24H), 4.46 (d, J=8 Hz, 1H), 5.80 (s, 1H), 7.26-7.29 (m, 2H), 7.35 (dd, J=10 and 6 Hz, 1H), 7.49-7.53 (m, 2H), 7.86 (dt, J=10 and 4 Hz, 1H), 8.57 (dd, J=6 and 4 Hz, 1H), 8.84 (d, J=4 Hz, 1H).

reactant | (11β,16α,17β)-11-(4-Bromophenyl)-17-cyclopropylcarbonyl-16-methylestra-4,9-dien-3-one | 20.3 mmol, 10 g | BrC1=CC=C(C=C1)[C@@H]1C2=C3CCC(C=C3CC[C@H]2[C@@H]2C[C@H]([C@@H]([C@@]2(C)C1)C(=O)C1CC1)C)=O | C29H33BrO2
reactant | 3-pyridinylboronic acid | 30.4 mmol, 3.7 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | potassium phosphate | 24.3 mmol, 5.2 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | triphenylarsine | 1.4 mmol, 426 mg | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
solvent | dioxane | 240 mL | O1CCOCC1 | C4H8O2
solvent | water | 30 mL | O | H2O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.61 mmol, 442 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (11β,16α,17β)-17-cyclopropylcarbon-yl-16-methyl-11-[4-(3-pyridinyl)phenyl]estra-4,9-dien-3-one | 11.2 mmol, 5.5 g, 55% yield | C1(CC1)C(=O)[C@@H]1[C@]2(C)[C@@H](C[C@H]1C)[C@@H]1CCC3=CC(CCC3=C1[C@H](C2)C2=CC=C(C=C2)C=2C=NC=CC2)=O | C34H37NO2
